US09227973B2
Step C: (5R,6S and 5S,6R)-6-(2,3-Difluorophenyl)-5-fluoro-7,8-dihydro-5H-cyclohepta[b]pyridin-9(6H)-one
To a solution of oxalyl chloride (1.2 g, 9.5 mmol) in dichloromethane (15 mL) at −65° C. was added DMSO (0.85 mL, 12 mmol), and the mixture was stirred for 30 min. A solution of 5R,6S,9R and 5S,6R,9S)-6-(2,3-difluorophenyl)-5-fluoro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (0.35 g, 1.9 mmol) in dichloromethane (3 mL) was added dropwise and the resulting solution was stirred at −65° C. for 30 min. After triethylamine (2.3 mL, 17 mmol) was added, the reaction mixture was gradually warmed to 23° C. over a period of 4 h, and then partitioned between water and dichloromethane. The organic layer was washed with water (3×), brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 50% ethyl acetate in petroleum ether to give the title compound as a racemic mixture. MS: m/z=292.2 (M+1).

reactant | oxalyl chloride | 9.5 mmol, 1.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 12 mmol, 0.85 mL | CS(=O)C | C2H6OS
reactant | 6-(2,3-difluorophenyl)-5-fluoro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | 1.9 mmol, 0.35 g | FC1=C(C=CC=C1F)C1C(C=2C(=NC=CC2)C(CC1)O)F | C16H14F3NO
reactant | triethylamine | 17 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 6-(2,3-Difluorophenyl)-5-fluoro-7,8-dihydro-5H-cyclohepta[b]pyridin-9(6H)-one | FC1=C(C=CC=C1F)C1C(C=2C(=NC=CC2)C(CC1)=O)F | C16H12F3NO
